US07951818B2
A.4: 5-Chloro-8-iodo-imidazo[1,2-a]pyridine
2-amino-3-iodo-6-chloropyridine (2 g, 7.874 mmol) is taken up in isopropanol (30 mL) under N2. Diethoxy-2-bromoacetal (2.5 mL, 15.748 mmol, 2 equiv.) is added to the suspension followed by HBr 48% (2 mL). The resulting mixture is then refluxed for 12 h and cooled down to room temperature. The mixture is partly concentrated under vacuum and the resulting slurry is taken up in diethyl ether which causes the precipitation of a solid that is separated by filtration and washed with little amounts of diethyl ether to afford the desired material as a powder.

reactant | 2-amino-3-iodo-6-chloropyridine | 7.874 mmol, 2 g | NC1=NC(=CC=C1I)Cl | C5H4ClIN2
reactant | HBr | 2 mL | Br | BrH
reactant | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 5-Chloro-8-iodo-imidazo[1,2-a]pyridine | ClC1=CC=C(C=2N1C=CN2)I | C7H4ClIN2
